US08217069B2
5-Carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)-phenyl]-5-ethoxycarbonyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (36 mg), tetrahydrofuran (2 mL), methanol (1 mL) and water (1 mL) was added lithium hydroxide monohydrate (56 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (33 mg).

reactant | 3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)-phenyl]-5-ethoxycarbonyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 36 mg | ClC1=C(C=C(C(=C1)OC)S(=O)(=O)C(C)(C1=CC=CC=C1)C)N1C(NC=2C1=NC(=CC2C)C(=O)OCC)=O | C26H26ClN3O6S
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 56 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 5-Carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 33 mg | C(=O)(O)C1=CC(=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)S(=O)(=O)C(C)(C2=CC=CC=C2)C)OC)Cl)C | C24H22ClN3O6S
